US07173031B2
B) 3-Bromo-4-(2-fluoro-4-nitrophenoxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 4-(2-fluoro-4-nitrophenoxy)-1-((2-(trimethylsilyl)ethoxy) methyl)-1H-pyrrolo[2,3-b]pyridine (2.40 g, 5.96 mmol) in 20 mL of acetonitrile at 0° C. was added a solution of NBS (1.01 g, 5.69 mmol, Aldrich) in 10 mL of acetonitrile. The reaction mixture was stirred at 0° C. for 30 min, quenched by the addition of cold water (50 mL), and extracted with EtOAc (3×120 mL). The combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, eluting with dichloromethane) to afford the desired product (2.70 g, 94%) as a light yellow oil. MS(ESI+) m/z 482.9 (M+H)+.

reactant | 4-(2-fluoro-4-nitrophenoxy)-1-((2-(trimethylsilyl)ethoxy) methyl)-1H-pyrrolo[2,3-b]pyridine | 5.96 mmol, 2.40 g | FC1=C(OC2=C3C(=NC=C2)N(C=C3)COCC[Si](C)(C)C)C=CC(=C1)[N+](=O)[O-] | C19H22FN3O4Si
reactant | NBS | 5.69 mmol, 1.01 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-Bromo-4-(2-fluoro-4-nitrophenoxy)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine | 2.70 g, 94% | BrC1=CN(C2=NC=CC(=C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F)COCC[Si](C)(C)C | C19H21BrFN3O4Si
